US04138244
1,1-dimethyl-2-(3,4-dichloro-6-nitrophenyl)hydrazine
Reaction of 1,2,4-trichloro-5-nitrobenzene with 1,1-dimethylhydrazine as described in Example I gave the desired product, m.p. 138° - 143° C.

reactant | 1,2,4-trichloro-5-nitrobenzene | ClC1=C(C=C(C(=C1)[N+](=O)[O-])Cl)Cl | C6H2Cl3NO2
reactant | 1,1-dimethylhydrazine | CN(N)C | C2H8N2
product | 1,1-dimethyl-2-(3,4-dichloro-6-nitrophenyl)hydrazine | CN(NC1=CC(=C(C=C1[N+](=O)[O-])Cl)Cl)C | C8H9Cl2N3O2
